US07129268B2
Potassium carbonate (12.0 g, 0.087 mol) and subsequently 2-bromo-1-(thiophen-2-yl)ethanone (7.0 g, 0.034 mol; prepared as described in J. Med. Chem. 30, 1497 (1987)) were added to a stirred solution of 5-bromosalicylaldehyde (6.9 g, 0.034 mol) in acetone (150 mL). The mixture was stirred at ambient temperature for 30 min at first and then refluxed for 1 h. Solid mass was filtered off, washed with hot acetone (2×50 mL) and the filtrate was evaporated in vacuo. The residue (11.3 g) was crystallized from ethanol (15 mL) giving (5-bromo-benzo[b]furan-2-yl)-(thiophen-2-yl)methane. Yield: 8.0 g (77%). M.p. 84–86° C.

reactant | Potassium carbonate | 0.087 mol, 12.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-1-(thiophen-2-yl)ethanone | 0.034 mol, 7.0 g | BrCC(=O)C=1SC=CC1 | C6H5BrOS
reactant | 5-bromosalicylaldehyde | 0.034 mol, 6.9 g | BrC1=CC=C(C(C=O)=C1)O | C7H5BrO2
solvent | acetone | 150 mL | CC(=O)C | C3H6O
product | (5-bromo-benzo[b]furan-2-yl)-(thiophen-2-yl)methane | BrC1=CC2=C(OC(=C2)CC=2SC=CC2)C=C1 | C13H9BrOS
